US07745636B2
The following carboxylic acids were prepared in a similar fashion:
To a suspension of 2-(2-(chloromethyl)phenyl)acetic acid (2.00 g, 10.8 mmol) in THF (20 mL) was added morpholine (1.89 g, 21.7 mmol) and the solution was stirred at room temperature for 3 hours. The reaction mixture was then diluted with ethyl acetate and extracted with H2O (2×). The aqueous phase was lyophilized and the residue was purified by silica gel chromatography (Biotage/0-10% methanol-CH2Cl2) to give the title compound 2-(2-(Morpholinomethyl)phenyl)acetic acid as a colorless solid (2.22 g, 87%). 1HNMR (400 MHz, CD3OD) δ 7.37-7.44 (m, 3H), 7.29-7.33 (m, 1H), 4.24 (s, 2H), 3.83 (br s, 4H), 3.68 (s, 2H), 3.14 (br s, 4H). LCMS Anal. Calcd. for C13H17NO3: 235; found: 236 (M+H)+.

reactant | 2-(2-(chloromethyl)phenyl)acetic acid | 10.8 mmol, 2.00 g | ClCC1=C(C=CC=C1)CC(=O)O | C9H9ClO2
reactant | morpholine | 21.7 mmol, 1.89 g | N1CCOCC1 | C4H9NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-(Morpholinomethyl)phenyl)acetic acid | 2.22 g, 87% | O1CCN(CC1)CC1=C(C=CC=C1)CC(=O)O | C13H17NO3
